US06242601B1
0.356 g of 5-methyl-pyridine-2-sulfonic acid [2-(2-cyano-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide, product of example 19, dissolved in EtOH (5 ml) were treated at RT with 2N NaOH (0.7 ml) and the solution was refluxed for 30 minutes until the transformation was complete according to TLC analysis. The reaction mixture was cooled to 0° C., the pH adjusted to pH=1. The crystalline solid was filtered off, washed with water and dried in a high vacuum to provide the desired 4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-pyridine-2-sulfonylamino)-pyrimidin-2-yl]-pyridine-2-carboxylic acid amide as an off-white solid. ISN mass spectrum, m/e 521.1 (M−1 calculated for C24H22N6O6S: 521).

reactant | 5-methyl-pyridine-2-sulfonic acid [2-(2-cyano-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 0.356 g | C(#N)C1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC | C24H20N6O5S
reactant | NaOH | 2N, 0.7 ml | [OH-].[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-pyridine-2-sulfonylamino)-pyrimidin-2-yl]-pyridine-2-carboxylic acid amide | COC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=NC=C(C=C1)C)C1=CC(=NC=C1)C(=O)N | C24H22N6O6S
